US07897619B2
tert-Butyl(R)-4-(3-(isoquinolin-6-yl)isoxazol-5-yl)-1-phenylbutan-2-ylcarbamate:
To a solution of tert-butyl(S)-4-(3-(isoquinolin-6-yl)isoxazol-5-yl)-1-phenylbut-3-yn-2-ylcarbamate (0.089 g, 0.20 mmol) in 10 mL of MeOH was added 10% palladium on carbon (0.089 g). Hydrogen was bubbled through the reaction mixture for 5 minutes. The reaction was kept under a balloon atmosphere of hydrogen for 2 hours. The reaction mixture was then filtered through Celite and concentrated under reduced pressure. The obtained tert-butyl(R)-4-(3-(isoquinolin-6-yl)isoxazol-5-yl)-1-phenylbutan-2-ylcarbamate was used without any purification.

reactant | tert-butyl(S)-4-(3-(isoquinolin-6-yl)isoxazol-5-yl)-1-phenylbut-3-yn-2-ylcarbamate | 0.20 mmol, 0.089 g | C1=NC=CC2=CC(=CC=C12)C1=NOC(=C1)C#C[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C27H25N3O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.089 g | [Pd] | Pd
product | tert-Butyl(R)-4-(3-(isoquinolin-6-yl)isoxazol-5-yl)-1-phenylbutan-2-ylcarbamate | C1=NC=CC2=CC(=CC=C12)C1=NOC(=C1)CC[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C27H29N3O3
